US07855216B2
Step 1: 4-(4-Methoxy-benzylamino)-nicotinonitrile
A solution of 4-chloronicotinonitrile (1.00 g, 7.22 mmol), 4-methoxybenzylamine (1.03 ml, 7.94 mmol) and potassium carbonate (1.20 g, 8.66 mmol) in propan-2-ol (20 mL) was heated under reflux for 18 hours. The solvent was concentrated in vacuo and the residue partitioned between EtOAc (150 mL) and water (50 mL). The organic phase was dried (Na2SO4), filtered and evaporated to give a brown oil. The oil was pre-adsorbed onto H-MN and purified by flash column chromatography (Si-PPC, cyclohexane:EtOAc, gradient 80:20 to 0:100) to provide the title compound as a white solid (1.61 g, 93%). 1H NMR (CDCl3, 300 MHz) 8.46 (d, J=0.7 Hz, 1H), 8.30 (dd, J=6.1 Hz, 0.7 Hz, 1H), 7.24 (dd, J=8.6 Hz, 2.1 Hz, 2H), 6.92 (dd, J=8.6 Hz, 2.1 Hz, 2H), 6.55 (d, J=6.1 Hz, 1H), 5.35 (br t, 1H), 4.40 (d, J=5.6 Hz, 2H), 3.82 (s, 3H).

reactant | 4-chloronicotinonitrile | 7.22 mmol, 1.00 g | ClC1=CC=NC=C1C#N | C6H3ClN2
reactant | 4-methoxybenzylamine | 7.94 mmol, 1.03 ml | COC1=CC=C(CN)C=C1 | C8H11NO
reactant | potassium carbonate | 8.66 mmol, 1.20 g | C([O-])([O-])=O.[K+].[K+]
solvent | propan-2-ol | 20 mL | CC(C)O | C3H8O
product | 4-(4-Methoxy-benzylamino)-nicotinonitrile | 1.61 g, 93% | COC1=CC=C(CNC2=CC=NC=C2C#N)C=C1 | C14H13N3O
